US04645765
11-Acetyl-4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (25 mg) was dissolved in tetrahydrofuran (2.5 ml) and the solution was added to a suspension of sodium hydride (60% in oil, 3 mg) in tetrahydrofuran (0.5 ml). To this mixture was added a solution of octanoyl chloride (12 μl) in tetrahydrofuran (108 μl) in an ice-water bath and the mixture was stirred for 1 hour in an ice-water bath. After stirring for 36 hours at room temperature, an additional amount of octanoyl chloride (50 μl) was added and the mixture was stirred for 3 hours at room temperature. The reaction mixture was then directly subjected to a preparative thin layer chromatography. Development was carried out with a mixture of chloroform and acetone (1:1, v/v) to afford 11-acetyl-8-carbamoyloxymethyl-4-formyl-9-hydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl octanoate (7 mg).

reactant | 11-Acetyl-4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 25 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3N(C3C1(O2)O)C(C)=O)C=O)O)=O | C16H17N3O7
reactant | sodium hydride | 3 mg | [H-].[Na+]
reactant | octanoyl chloride | 12 μl | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | octanoyl chloride | 50 μl | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 108 μl | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 11-acetyl-8-carbamoyloxymethyl-4-formyl-9-hydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl octanoate | 7 mg | C(CCCCCCC)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)O)C(C)=O)C=O | C24H31N3O8
